Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine
 
Attending: ___.
 
Chief Complaint:
syncope 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year-old woman with DM1, PVD s/p recent 
fem-tib bypass on ___, chronic syncopal symptoms thought to 
be secondary to autonomic dysfunction and lisinopril, who 
presents with worsening syncope. She was in her USOH until today 
after leaving rehab yesterday when she was noted to have five to 
six episodes of syncope with brief periods of LOC x ___ and 
bilateral arm shaking while laying in bed (witnessed by visiting 
nurse). At baseline, she had significant syncope a few months 
ago that was characterized by light-headedness when standing 
from a seated position; this resolved with discontinuation of 
lisinopril, and she has only had a few brief episodes of 
diziness over the last few months. Note that she has been 
evaluated by cardiology (Dr. ___ and had negative ___ of 
Hearts monitoring. ROS was negative for incontinence, headache, 
fevers, chills, new medications, CP, and SOB.  

In the ED, vital signs were initially: 98.8 64 142/77 18 100. 
EKG was negative and CXR and head CT were unrevealing. She was 
orthostatic (sbp 140 -> 110) and received 2L IVF and aspirin. 
She was seen by neuro who felt that her symptoms were not 
secondary to seizures or other acute processes, but rather 
secondary to her known autonomic dysfunction. She also had an 
episode of arm shaking in the ED for a few seconds that was 
thought to be a seizure but again felt by neuro to be more 
related to her orthostatic hypotension per report. She was also 
felt to have some erythema at the location of her leg 
wound/fem-tib bypass.  

REVIEW OF SYSTEMS:  
No fevers, chills, weight loss, diaphoresis, headache, visual 
changes, sore throat, chest pain, shortness of breath, nausea, 
vomiting, abdominal pain, constipation, diarrhea, melena, 
pruritis, easy bruising, dysuria, skin changes, pruritis.  

 
Past Medical History:
1. Sciatica with h/o laminectomy.  
2. DM1 for ___ years, on insulin pump, with gastroparesis  
3. Hypercholesterolemia  
4. h/o CP in ___, cardiac cath clean - sx's felt to be ?spasms. 
 
5. HTN  
6. Hiatal hernia  
7. s/p hysterectomy  
8. Hypothyroidism  
 
Social History:
___
Family History:
Mother MI ___
Father MI ___
 
Physical Exam:
VS: 98.8 67 168/67 16 96%ra  
GEN:The patient is in no distress and appears comfortable  
SKIN:No rashes or skin changes noted  
HEENT:No JVD, neck supple, No lymphadenopathy in cervical, 
posterior, or supraclavicular chains noted. MM dry.  
CHEST:Lungs are clear without wheeze, rales, or rhonchi.  
CARDIAC: Regular rhythm; ___ s.murmur, no rubs, or gallops.  
ABDOMEN: No apparent scars. Non-distended, and soft without 
tenderness  
EXTREMITIES: healing incision wound on medial aspect of left leg 
and left thigh, c/d/i. 7 cm wound on medial thigh in inguinal 
region, erythema around margin of wound, no discharge.  
NEUROLOGIC: Alert and appropriate. CN II-XII grossly intact. BUE 
___, and BLE ___ both proximally and distally. No pronator 
drift. Reflexes were symmetric. Downward going toes.  

 
Pertinent Results:
___ 02:30PM BLOOD WBC-6.0 RBC-3.37*# Hgb-10.4*# Hct-30.9*# 
MCV-92 MCH-30.7 MCHC-33.5 RDW-14.3 Plt ___
___ 06:18AM BLOOD WBC-4.2 RBC-2.98* Hgb-9.0* Hct-27.4* 
MCV-92 MCH-30.3 MCHC-33.0 RDW-14.5 Plt ___
___ 02:30PM BLOOD Neuts-55.3 ___ Monos-7.0 Eos-4.6* 
Baso-0.9
___ 02:30PM BLOOD Glucose-164* UreaN-36* Creat-1.5* Na-134 
K-5.1 Cl-100 HCO3-23 AnGap-16
___ 06:18AM BLOOD Glucose-67* UreaN-30* Creat-1.3* Na-140 
K-4.5 Cl-106 HCO3-26 AnGap-13
___ 02:30PM BLOOD CK(CPK)-48
___ 06:18AM BLOOD ALT-20 AST-20 LD(LDH)-155 AlkPhos-89 
TotBili-0.3
___ 12:00PM BLOOD CK(CPK)-39
___ 02:30PM BLOOD CK-MB-NotDone cTropnT-<0.01
___ 12:00PM BLOOD CK-MB-NotDone cTropnT-<0.01
___ 06:18AM BLOOD Albumin-3.4 Calcium-8.8 Phos-3.4 Mg-1.9
___ 02:30PM BLOOD VitB___*
___ 02:30PM BLOOD TSH-2.4

CT HEAD ___ - IMPRESSION: No acute intracranial process. If 
there is clinical concern for mass MRI is more sensitive. 

 
Brief Hospital Course:
Ms. ___ is a ___ year-old woman with DM1, CAD, PVD s/p recent 
fem-tib bypass, chronic syncopal symptoms thought to be 
secondary to autonomic dysfunction and lisinopril, who presents 
with worsening syncope.  

# Syncope: Patient was admitted with 5 episodes of syncope in a 
seated and supine position, noted to have shaking hand movements 
during one of the episodes.  In the ED, patient was noted to be 
orthostatic, most likely secondary to autonomic dysfunction and 
poor PO intake in the days preceding admission.  She recieved 1L 
IV fluids.  CT Head negative for acute process.  Neurology 
consult in ED felt siezure was unlikely based on her history and 
exam  Patient was transferred to floor and had no repeat 
episodes.  She was placed on telemetry with no events recorded.  
MI was ruled out with negative enzymes over 24 hours.  TSH, B12 
were normal. RPR non-reactive.  Of note, she had been recently 
started on a beta blocker at her rehab facility.  Her beta 
blocker had been previously discontinued in the setting of her 
syncope.  This was again discontinued and she should have her BP 
followed by her PMD.  Given that these events occurred while the 
pt had been seated, she was discharged home with ___ of Hearts 
monitor to determine if she had arrhythmia leading to these 
episodes.  Of note, she had ___ of Hearts monitor in the 
past, but it did not detect any arrythmias - she had only felt 
dizzy during this time.  The monitor did not record an arrythmia 
to correlate with her symptoms.  Additionally, follow-up was 
arranged with neurology and cardiology.  ___ cleared patient for 
discharge home.

# PVD: Status post right common femoral to anterior tibial 
bypass with nonreversed saphenous vein and angioscopy ___.  
Continued plavix, aspirin.

# HTN: discontinued metoprolol. vitals stable.

# DM1: continued insulin pump and lantus 15u qhs per patient  

# Gastroesophageal reflux disease with hiatal hernia: continued 
PPI  

 
Medications on Admission:
1. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO TID (3 
times a day).  
2. Calcitriol 0.25 mcg Capsule Sig: One (1) Capsule PO DAILY  
3. Gabapentin 800 mg bid  
4. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
5. Oxycodone 40 mg Tablet Sustained Release 12 hr Sig: One (1) 
Tablet Sustained Release 12 hr PO DAILY (Daily).  
6. Cyclosporine 0.05 % Dropperette Sig: Two (2) Drop Ophthalmic 
BID (2 times a day) as needed for dry eyes.  
7. White Petrolatum-Mineral Oil 42.5-56.8 % Ointment Sig: One 
(1) Appl Ophthalmic BID (2 times a day) as needed for dry eyes.  

8. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
9. Oxycodone 5 mg Tablet Sig: One (1) Tablet PO Q4H (every 4 
hours) as needed for pain.  
10. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
11. Oxycodone 10 mg Tablet Sustained Release 12 hr Sig: One (1) 
Tablet Sustained Release 12 hr PO HS (at bedtime).  
12. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed  
13. Acetaminophen 325 mg Tablet Sig: One (1) Tablet PO Q6H 
(every 6 hours) as needed for pain.  
14. Multivitamin Tablet Sig: ___ Tablets PO DAILY (Daily).  
15. Metoclopramide 10 mg Tablet Sig: One (1) Tablet PO QIDACHS  
16. Erythromycin 5 mg/g Ointment Sig: One (1) Ophthalmic BID (2 
times a day).  
17. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
18. Citalopram 20 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
19. Levothyroxine 75 mcg Tablet Sig: One (1) Tablet PO DAILY  
20. Lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime) as needed for anxiety.  
21. Mupirocin Calcium 2 % Cream Sig: One (1) Appl Topical BID (2 
times a day).  
22. Simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY  
23. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO BID (2 times a day).  
24. Metoprolol Tartrate 25 mg Tablet Sig: 0.5 Tablet PO BID (2 
times a day).  
25. Polyvinyl Alcohol-Povidone 1.4-0.6 % Dropperette Sig: ___ 
Drops Ophthalmic PRN (as needed) as needed for dry eyes.  
26. Insulin Pump SC (Self Administering Medication)  

 
Discharge Medications:
1. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO three 
times a day.  
2. Calcitriol 0.25 mcg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
3. Gabapentin 400 mg Capsule Sig: Two (2) Capsule PO Q12H (every 
12 hours).  
4. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
5. Oxycodone 40 mg Tablet Sustained Release 12 hr Sig: One (1) 
Tablet Sustained Release 12 hr PO once a day.  
6. Cyclosporine 0.05 % Dropperette Sig: Two (2) drops Ophthalmic 
twice a day as needed for dry eyes.  
7. White Petrolatum-Mineral Oil 42.5-56.8 % Ointment Sig: One 
(1)  Ophthalmic twice a day as needed for dry eyes.  
8. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for bm.  
9. Oxycodone 5 mg Tablet Sig: One (1) Tablet PO every four (4) 
hours as needed for pain.  
10. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
11. Oxycodone 10 mg Tablet Sig: One (1) Tablet PO at bedtime.  
12. Bisacodyl 5 mg Tablet Sig: Two (2) Tablet PO once a day as 
needed for constipation.  
13. Acetaminophen 325 mg Tablet Sig: One (1) Tablet PO Q6H 
(every 6 hours) as needed for pain.  
14. Multivitamin,Tx-Minerals     Tablet Sig: One (1) Tablet PO 
DAILY (Daily).  
15. Metoclopramide 10 mg Tablet Sig: One (1) Tablet PO QIDACHS 
(4 times a day (before meals and at bedtime)).  
16. Erythromycin 5 mg/g Ointment Sig: One (1)  Ophthalmic twice 
a day: as previously directed.  
17. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
18. Citalopram 40 mg Tablet Sig: One (1) Tablet PO once a day.  
19. Levothyroxine 75 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
20. Lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime) as needed for anxiety.  
21. Mupirocin Calcium 2 % Cream Sig: One (1) Appl Topical BID (2 
times a day).  
22. Simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
23. Caltrate 600+D Plus Minerals 600 mg (1,500 mg)-400 unit 
Tablet, Chewable Sig: One (1) Tablet, Chewable PO once a day.  
24. Lantus 100 unit/mL Cartridge Sig: Twelve (12) units 
Subcutaneous at bedtime: as previously directed.  
25. Humalog 100 unit/mL Cartridge Sig: One (1)  Subcutaneous as 
directed: with insulin pump.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___:
Primary Diagnosis:
Syncope

Secondary Diagnosis:
Diabetes Type 2
Peripheral Vascular Disease
Autonomic Dysfunction
GERD

 
Discharge Condition:
Hemodynamically Stable.

 
Discharge Instructions:
You were admitted to the hospital after fainting at home 
multiple times.  In the emergency, an xray of your head showed 
no abnormalities.  You were given IV fluids because your blood 
pressure dropped when you stood up.  You were evaluated by 
neurology and they concluded that you did not have a seizure.  
You are being discharged with ___ of Hearts that will monitor 
you for any abnormalities in your heart rhythm.  Please 
follow-up with your primary care physician, neurology and your 
cardiologist after discharge from the hospital.

CHANGES IN MEDICATION:
DISCONTINUE Metoprolol
Please take all other medications as previously prescribed.  If 
you are taking over the counter vitamins, please continue taking 
these and discuss them with your primary care physician.

If you experience fever, chest pain, shortness of breath, 
continued loss of conciousness, blood in your stool, confusion 
or any other symptoms that concern you, please contact your 
primary care physician or go to the nearest emergency room for 
evaluation.
 
Followup Instructions:
___